US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-2,5-dimethoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 2,5-dimethoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2,5-dimethoxybenzoic acid | COC1=C(C(=O)O)C=C(C=C1)OC | C9H10O4
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-2,5-dimethoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=CC(=C1)OC)OC)=O | C19H22N2O3
